US04689338
A mixture of 1.1 g (0.004 mole) of 4-chloro-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinoline and 30 ml of 15 to 20% ammonia in methanol was heated at 150° to 160° C. for five hours in a bomb reactor. The mixture was filtered and the solid washed sequentially with methanol, ethyl acetate, water, and methanol then dried. Recrystallization from a mixture of ethyl acetate and methanol gave white solid 4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinoline, m.p. 270°-272° C., Analysis: Calculated for C14H16N4O: % C, 65.6; % H, 6.3; % N, 21.9; Found: % C, 65.6; %H, 6.3; % N, 21.9.

reactant | 4-chloro-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 0.004 mole, 1.1 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)(C)O | C14H14ClN3O
reactant | ammonia | 30 ml | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinoline | NC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)(C)O | C14H16N4O
